US07384930B2
(S)-4-bromo-9-(cyclopropylmethyl)-7-(2-(4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)-2-oxoethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
((S)-4-Bromo-9-cyclopropylmethyl-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-cyclohept[e]inden-7-yl)-acetic acid (90 mg, 0.23 mmol) and 8-fluoro-3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride (80 mg, 0.28 mmol) were combined in a manner analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Title compound was obtained as white solid in 56% yield. High resolution MS m/e (M+H)+=620.1665.

reactant | ((S)-4-Bromo-9-cyclopropylmethyl-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-cyclohept[e]inden-7-yl)-acetic acid | 0.23 mmol, 90 mg | BrC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC2CC2 | C17H18BrN3O3
reactant | 8-fluoro-3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride | 0.28 mmol, 80 mg | Cl.FC=1C=CC=C2C=C(C(NC12)=O)C1CCNCC1
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | (S)-4-bromo-9-(cyclopropylmethyl)-7-(2-(4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)-2-oxoethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 56% yield | BrC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)N2CCC(CC2)C=2C(NC1=C(C=CC=C1C2)F)=O)=O)CC2CC2 | C31H31BrFN5O3
